US05149357
Under a nitrogen atmosphere, 0.1 gram (0.004 mole) of sodium metal was reacted in 40 mL of ethanol. The solution was stirred, and 13.0 grams (0.100 mole) of ethyl acetoacetate was added. The reaction mixture was cooled in an ice bath, and 13.2 grams (0.100 mole) of trans-cinnamaldehyde in 10 mL of ethanol was added dropwise during a 10 minute period. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for about 18 hours. After this time the reaction mixture was saturated with gaseous hydrochloric acid and then was allowed to stand for about 65 hours. The reaction mixture was concentrated under reduced pressure to yield 2-ethoxycarbonyl-3-phenylcyclohex-5-enone. A 100% yield (24.4 grams) of product was assumed.

reactant | sodium | 0.004 mole, 0.1 gram | [Na] | Na
reactant | ethyl acetoacetate | 0.100 mole, 13.0 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | trans-cinnamaldehyde | 0.100 mole, 13.2 grams | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-ethoxycarbonyl-3-phenylcyclohex-5-enone | C(C)OC(=O)C1C(C=CCC1C1=CC=CC=C1)=O | C15H16O3
